US04866077
3-Mercapto-5-(3-pyridyl)-1,2,4-triazole (65)
To a solution of 19 g (0.200 mol) of thiosemicarbazide in 175 ml of dry pyridine, 29 g (0.200 mol) of nicotinoyl chloride was slowly added at 10° C. After reflux for 40 min. the reaction mixture was concentrated to half the original volume, 500 ml of water was added, and stored in the cold overnight. The precipitate formed was removed by filtration, and the filtrate was evaporated in vacuo. The resulting heavy, yellow oil was dissolved in 300 ml of water, and 64 g (0.600 mol) of sodium carbonate in 400 ml of water was added. After reflux for 4 h the solution was cooled and acidified with conc. hydrochloric acid to pH=4. The formed, colorless precipitate, 65, was isolated by filtration and dried in vacuo. Yield: 35 g (0.297 mol, 98%).

reactant | thiosemicarbazide | 0.200 mol, 19 g | NNC(=S)N | CH5N3S
reactant | nicotinoyl chloride | 0.200 mol, 29 g | C(C1=CN=CC=C1)(=O)Cl | C6H4ClNO
reactant | sodium carbonate | 0.600 mol, 64 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 175 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 400 ml | O | H2O
product | 3-Mercapto-5-(3-pyridyl)-1,2,4-triazole | SC1=NNC(=N1)C=1C=NC=CC1 | C7H6N4S
